US08293768B2
Synthesis of ethyl 5-(3-(2-hydroxyethyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate
Ethyl 5-(3-(2-(tert-butyldimethylsilyloxy)ethyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate (1.09 g 2.63 mmol) in acetic acid (10 mL) was stirred at 40° C. for 64 h. The reaction mixture was allowed to cool to ambient temperature and concentrated in vacuo. The residue was purified by column chromatography eluted with ethyl acetate and then with 5% methanol in dichloromethane to afford the title compound as a colorless solid in 78% yield (0.62 g): 1H NMR (300 MHz, CDCl3) δ 6.15 (s, 1H), 4.27 (q, J=7.1 Hz, 2H), 3.89-3.82 (m, 4H), 3.74-3.67 (m, 2H), 3.49-3.44 (m, 2H), 2.49 (s, 3H), 2.34 (t, J=5.3 Hz, 1H), 1.33 (t, J=7.1 Hz, 3H); MS (ES+) m/z 299.2 (M+1).

reactant | Ethyl 5-(3-(2-(tert-butyldimethylsilyloxy)ethyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate | 2.63 mmol, 1.09 g | [Si](C)(C)(C(C)(C)C)OCCN1C(N(CC1)C1=CC(=C(S1)C(=O)OCC)C)=O | C19H32N2O4SSi
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | ethyl 5-(3-(2-hydroxyethyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate | 78% yield | OCCN1C(N(CC1)C1=CC(=C(S1)C(=O)OCC)C)=O | C13H18N2O4S
